US06194425B1
Under a nitrogen atmosphere, 3-butoxypropylamine (4.0 mL, 26 mmol) was added dropwise over a period of 10 minutes to a solution of 4-chloro-3-nitro[1,5]naphthyridine (4.6 g, 22 mmol) and triethylamine (4.6 mL, 33 mmol) in dichloromethane (150 mL). The reaction mixture was maintained at ambient temperature overnight. Water (100 mL) was added and the phases were separated. The aqueous phase was extracted with dichloromethane (100 mL). The organic fractions were combined, dried over magnesium sulfate, filtered and then concentrated under vacuum to provide a yellow oil. The oil was purified by flash chromatography (silica gel eluting with 1:1 ethyl acetate:hexanes) to provide 5.3 g of N4-(3-butoxypropyl)-3-nitro[1,5]naphthyridin-4-amine as a colorless oil. 1H NMR (300 MHz, CDCl3): δ 10.08 (broad s, 1H), 9.38 (broad s, 1H), 8.78 (m, 1H), 8.22 (dd, J=8.4,1.6 Hz, 1H), 7.64 (dd, J=8.4,4.1 Hz, 1H), 4.57 (broad s, 2H), 3.63 (t, J=5.8 Hz, 2H), 3.46 (t, J=6.7 Hz, 2H), 2.10-2.03 (m, 2H), 1.65-1.55 (m, 2H), 1.44-1.32 (m, 2H), 0.92 (t, J=7.3 Hz, 3H); MS (EI): m/e 304.1535 (304.1535 calc'd for C15H20N4O3).

reactant | 3-butoxypropylamine | 26 mmol, 4.0 mL | C(CCC)OCCCN | C7H17NO
reactant | 4-chloro-3-nitro[1,5]naphthyridine | 22 mmol, 4.6 g | ClC1=C(C=NC2=CC=CN=C12)[N+](=O)[O-] | C8H4ClN3O2
reactant | triethylamine | 33 mmol, 4.6 mL | C(C)N(CC)CC | C6H15N
reactant | Water | 100 mL | O | H2O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | N4-(3-butoxypropyl)-3-nitro[1,5]naphthyridin-4-amine | 5.3 g | C(CCC)OCCCNC1=C(C=NC2=CC=CN=C12)[N+](=O)[O-] | C15H20N4O3
